US09233982B2
Step 2: 2′-thioxo-6,7-dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazolidin]-5′-one
6,7-Dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazolidine]-2′,5′-dione (0.5 g, 2.25 mmol) and 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulfide (Lawesson's reagent) (0.91 g, 2.25 mmol) were suspended in 1,4-dioxane (5 mL). The mixture was heated by microwave irradiation at 120° C. for 30 min. The solution was concentrated in vacuo and the crude residue purified on silica gel using a gradient elution of 20-100% ethyl acetate in 40-60 petroleum ether. Isolated material was further purified on silica gel using a gradient elution of 2-5% methanol in dichloromethane to afford the title compound as a colourless solid (0.54 g, 100%).

reactant | 6,7-Dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazolidine]-2′,5′-dione | 2.25 mmol, 0.5 g | N1C(NC2(C1=O)CCCC=1SC=CC12)=O | C10H10N2O2S
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane-2,4-disulfide | 2.25 mmol, 0.91 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2′-thioxo-6,7-dihydro-5H-spiro[benzo[b]thiophene-4,4′-imidazolidin]-5′-one | 0.54 g, 100% | S=C1NC(C2(N1)CCCC=1SC=CC12)=O | C10H10N2OS2
